US07741324B2
3-(3-benzyloxy-phenyl)-3-(cyclobutanecarbonyl-amino)-2-oxo-propionic acid ethyl ester (Compound of Formula V where R1=cyclobutyl and Q1=Ph-(3-OBn)) was prepared as follows:
A slurry of (3-benzyloxy-phenyl)-(cyclobutanecarbonyl-amino)-acetic acid (4.77 g, 14.1 mmol), pyridine (3.4 mL, 42.2 mmol) and DMAP (cat.) in anhydrous THF (26 mL) was charged dropwise with chloro-oxo-acetic acid ethyl ester (3.13 mL, 28.1 mmol) and heated to reflux for 1.5 h. The white precipitate was filtered through a fritted glass Buchner funnel into a flask containing H2O and EtOAc and the aqueous phase was separated from the organic phase. The aqueous was washed with EtOAc (3×) and the combined EtOAc layers were washed with brine (1×), dried over Na2SO4, filtered and concentrated in vacuo resulting in a yellow/orange oil. The oil was dissolved in anhydrous EtOH (28 mL) and a solution of 21 wt % of sodium ethoxide (NaOEt) in EtOH (2.0 mnL) was added at 0° C. and warmed to rt. The reaction mixture was concentrated in vacuo and the crude material was chromatographed on silica gel [eluting with 2% EtOAc in CHCl3], yielding the title compound as a pale yellow oil. 1H NMR (CDCl3, 400 MHz) δ 1.26 (t, J=7.2 Hz, 3H), 1.80-2.04 (m, 2H), 2.09 (m, 4H), 3.06 (quint, J=8.4 Hz, 1H) 4.17-4.30 (m, 2H), 5.04 (s, 2H), 6.18-6.32 (m, 2H), 6.86-7.00 (m, 3H), 7.22-7.48 (m, 5H); MS (ES+): m/z 396.03 (100) [MH+]; HPLC: tR=3.09 min (MicromassZQ, nonpolar—5 min).

reactant | (3-benzyloxy-phenyl)-(cyclobutanecarbonyl-amino)-acetic acid | 14.1 mmol, 4.77 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(=O)O)NC(=O)C1CCC1 | C20H21NO4
reactant | pyridine | 42.2 mmol, 3.4 mL | N1=CC=CC=C1 | C5H5N
reactant | chloro-oxo-acetic acid ethyl ester | 28.1 mmol, 3.13 mL | C(C)OC(C(=O)Cl)=O | C4H5ClO3
reactant | sodium ethoxide | [O-]CC.[Na+]
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 26 mL | C1CCOC1 | C4H8O
solvent | EtOH | 28 mL | CCO | C2H6O
product | 3-(3-benzyloxy-phenyl)-3-(cyclobutanecarbonyl-amino)-2-oxo-propionic acid ethyl ester | C(C)OC(C(C(NC(=O)C1CCC1)C1=CC(=CC=C1)OCC1=CC=CC=C1)=O)=O | C23H25NO5
